US07732618B2
a.) (3,3-Diethoxy-propyl)-carbamic acid allyl ester: (Scheme 1)
But-3-enoyl chloride (930 uL, 8.84 mmol) was added slowly to a rapidly stirring mixture of 3,3-diethoxy-propylamine (1.0 g, 6.80 mmol) and NaHCO3 (2 mL of 0.6 M NaHCO3 in water) in DCM (100 mL). The reaction was stirred at room temperature overnight, then partitioned between water and DCM. The organic layer was washed several times with water and concentrated to give the crude sub-title compound that was used without further purification.

reactant | But-3-enoyl chloride | 8.84 mmol, 930 uL | C(CC=C)(=O)Cl | C4H5ClO
reactant | 3,3-diethoxy-propylamine | 6.80 mmol, 1.0 g | C(C)OC(CCN)OCC | C7H17NO2
reactant | NaHCO3 | 0.6 M, 2 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (3,3-Diethoxy-propyl)-carbamic acid allyl ester | C(C=C)OC(NCCC(OCC)OCC)=O | C11H21NO4
